US09120805B2
A suspension of 100 mg (0.286 mmol) 1-[2-(4-benzyloxy-phenyl)-2-oxo-ethyl]-1H-pyrrole-2-carboxylic acid methyl ester in a 7 M solution of ammonia in methanol is irradiated in a microwave apparatus at 90° C. for 18 h. The reaction mixture is cooled to room temperature and evaporated. The residue is chromatographed on a silica gel column with petrolether/ethylacetate as eluent to give 3-(4-benzyloxy-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one as beige crystals; HPLC/MS 2.26 min (A), [M+H] 317.

reactant | 1-[2-(4-benzyloxy-phenyl)-2-oxo-ethyl]-1H-pyrrole-2-carboxylic acid methyl ester | 0.286 mmol, 100 mg | COC(=O)C=1N(C=CC1)CC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H19NO4
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 3-(4-benzyloxy-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1NC(C=2N(C1)C=CC2)=O | C20H16N2O2
